US07947706B2
To a solution of 100 mg of 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide in 5 mL of tetrahydrofuran are added dropwise 54.4 μL of 2-methoxy-5-methylphenyl isocyanate. The reaction mixture is stirred for 16 hours at room temperature under an argon atmosphere and then concentrated under reduced pressure. The residue obtained is stirred for 30 minutes in 2 mL of dichloromethane. The suspended solid is filtered off, washed with water and drained by suction. After drying under vacuum, at 40° C., 40 mg of 3-{4-[3-(2-methoxy-5-methylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxamide are obtained, the characteristics of which are as follows:

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | 100 mg | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N | C14H12N4O
reactant | 2-methoxy-5-methylphenyl isocyanate | 54.4 μL | COC1=C(C=C(C=C1)C)N=C=O | C9H9NO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-{4-[3-(2-methoxy-5-methylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | 40 mg | COC1=C(C=C(C=C1)C)NC(NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N)=O | C23H21N5O3
